US07737166B2
4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N-(2-methoxyethyl)-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (#48)
Under nitrogen atmosphere, a dimethyl sulfoxide (2 ml) solution of (3S)-3-(dimethylamino)pyrrolidine (70 μl, 552 μmol) was added at 150° C. to a dimethyl sulfoxide (7 ml) solution of 4-cyano-7-fluoro-N-(2-methoxyethyl)-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-122) (169 mg, 460 μmol) and triethylamine (83 μl, 598 μmol), followed by stirring at the same temperature for 2 hours. After cooling, saturated brine was added to the reaction liquid, and the reaction liquid was extracted with ethyl acetate. Next, the combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the eluate with dichloromethane/methanol (20:1, v/v) gave the entitled compound (112 mg, 53%) as an amorphous substance.

reactant | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
reactant | (3S)-3-(dimethylamino)pyrrolidine | 552 μmol, 70 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | dimethyl sulfoxide | 7 ml | CS(=O)C | C2H6OS
reactant | 4-cyano-7-fluoro-N-(2-methoxyethyl)-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 460 μmol, 169 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)CCOC)F)C2=CC=CC=C2)C | C20H18FN3O3
reactant | triethylamine | 598 μmol, 83 μl | C(C)N(CC)CC | C6H15N
solvent | brine | [Cl-].[Na+].O
product | 4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N-(2-methoxyethyl)-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 112 mg, 53% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)CCOC)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C26H31N5O3
